US07674801B2
Ethyl 2-amino-4-(hydroxymethyl)-1,3-thiazole-5-carboxylate
A solution of 5.0 g (37 mmol) of 3-chlorofuran-2,4(3H,5H)-dione and 3.3 g (43 mmol) of thiourea in 50 ml EtOH was heated at reflux for 4 h. Solvent was removed and the residue was dissolved in water with 1N HCl added. The aqueous solution was basified with aqueous Na2CO3. Thick solids that formed were filtered, rinsed with water and dried in vacuo. NMR: 1.2 (t, 3H), 4.2 (q, 2H), 4.6 (s, 2H), 4.9 (br s, 1H), 7.8 (s, 2H).

reactant | 3-chlorofuran-2,4(3H,5H)-dione | 37 mmol, 5.0 g | ClC1C(OCC1=O)=O | C4H3ClO3
reactant | thiourea | 43 mmol, 3.3 g | NC(=S)N | CH4N2S
reactant | EtOH | 50 ml | CCO | C2H6O
product | Ethyl 2-amino-4-(hydroxymethyl)-1,3-thiazole-5-carboxylate | NC=1SC(=C(N1)CO)C(=O)OCC | C7H10N2O3S
